US09302988B2
Step 1: (1-Benzyl-3-bromo-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl)(morpholino)methanone
HATU (12.59 g 33.14 mmol) and DIPEA (12.3 mL, 33.14 mmol) were added to the ice cold solution of 1-benzyl-3-bromo-4-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid (10 g, 27.62 mmol) in DMF (110 mL) and it was stirred for 10 min at same temperature and then morpholine (2.8 mL, 33.14 mmol) was added to the reaction mixture warmed to RT and then stirred for 14 h. The reaction mixture was diluted with EtOAc and H2O. The aqueous layer was extracted with EtOAc (2×300 mL), washed with water (2×300 mL) and brine (2×300 mL), organic layer was dried over anhydrous Na2SO4, combined organic layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to yield crude mass which was then purified by column chromatography (100-200 mesh Silica gel; 30% ethyl acetate/hexane; Rf-value 0.6) to afford title compound (10 g, 84% yield, white color solid).

reactant | HATU | 33.14 mmol, 12.59 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 33.14 mmol, 12.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-benzyl-3-bromo-4-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid | 27.62 mmol, 10 g | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)C)Br)C(=O)O | C14H11BrF3NO2
reactant | morpholine | 33.14 mmol, 2.8 mL | N1CCOCC1 | C4H9NO
solvent | DMF | 110 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | (1-Benzyl-3-bromo-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl)(morpholino)methanone | 10 g, 84% yield | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)C)Br)C(=O)N1CCOCC1 | C18H18BrF3N2O2
